US03976635
To a suspension of N-benzyloxycarbonyl-L-phenylalanine (1.5 g) and 2-ethoxycarbonyloxyimino-2-cyanoacetic acid amide (0.95 g) in ethyl acetate (20 ml), a solution of triethylamine (0.7 ml) in ethyl acetate (5 ml) is dropwise added at -10°C, and the resulting mixture is stirred at the same temperature for 20 minutes and then at room temperature for 2 hours. After allowed to stand over night, the reaction mixture is treated as in Example A to give N-benzyloxycarbonyl-L-phenylalanine ethyl ester (1.7 g) as an oil.

reactant | N-benzyloxycarbonyl-L-phenylalanine | 1.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | 2-ethoxycarbonyloxyimino-2-cyanoacetic acid amide | 0.95 g | C(C)OC(=O)ON=C(C(=O)N)C#N | C6H7N3O4
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-L-phenylalanine ethyl ester | 1.7 g | C(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C19H21NO4
